### PR TITLE
Add Kourovka Problem 2.24 on orderability of torsion-free Engel groups

### PR DESCRIPTION
**Pull request by vikasprajapati-01**
## Summary
- add a Lean statement for Kourovka Notebook Problem 2.24 on orderability of torsion-free Engel groups.
- define iterated commutator, Engel, torsion-free, and orderable predicates.
- tag the open problem with category and AMS codes.

Tested using `lake build` and it was successfull.

Solves #2017

### CODE REVIEW

File: FormalConjectures/Kourovka/2_24.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+with Plotkin's conjecture on the local nilpotence of Engel groups: a positive answer to Plotkin's
+conjecture would imply an affirmative answer here via Mal'cev's theorem that torsion-free locally
+nilpotent groups are orderable.
+-/
+
+namespace KourovkaProblem2_24
+
+variable (G : Type*) [Group G]
+
+/-- The `n`-fold iterated commutator `[x,_n y]`. -/
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean]: Use LaTeX formatting for docstrings

File: FormalConjectures/Kourovka/2_24.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+conjecture would imply an affirmative answer here via Mal'cev's theorem that torsion-free locally
+nilpotent groups are orderable.
+-/
+
+namespace KourovkaProblem2_24
+
+variable (G : Type*) [Group G]
+
+/-- The $n$-fold iterated commutator $[x,_n y]$. -/
+def commutator_n (x y : G) : ℕ → G
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean:41]: This, as well as Torsion free groups (and most likely orderable groups) is in mathlib, dont define it yourself.

File: FormalConjectures/Kourovka/2_24.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Kourovka Problem 2.24
+
+*Reference:* Kourovka Notebook, Problem 2.24.
+
+Does every torsion-free Engel group admit a bi-invariant linear order? The question is intertwined
+with Plotkin's conjecture on the local nilpotence of Engel groups: a positive answer to Plotkin's
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean:28]: Formaluse the connection with research solved tag

**Comment by vikasprajapati-01** [comment]
Thanks for the review @felixpernegger 
I switched the torsion-free assumption to mathlib’s `Monoid.IsTorsionFree` (refered : https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Torsion.html ) and marked the problem with @[category research solved, AMS 20] as requested. I couldn’t find mathlib predicates for Engel groups or bi-invariant orderable groups. If you can point me to them, I’ll swap those in too.

**Comment by felixpernegger** [comment]
Another thing, do *you* (you!) understand what the problem is about and not just copy fron some LLM?

**Comment by vikasprajapati-01** [comment]
> Another thing, do _you_ (you!) understand what the problem is about and not just copy fron some LLM?

What i have understood is that the goal here is to formalize the statement, and in this particular issue we have to check if a group has no torsion and whether we can get identity element by repeated commutators of any 2 elements.

Actually i am new to lean, so i am referring the documentations to learn more and solve the issue not LLM.

But If you still think the PR needs a lot of work, then i would be happy to close this PR for now. So that i can learn more about formal conjectures and lean and raise the PR later.

**Comment by felixpernegger** [comment]
nice, this is just a very common occurence in this repo, so I asked

File: FormalConjectures/Kourovka/2_24.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+    IsStrictTotalOrder G r ∧
+    (∀ a b g : G, r a b → r (g * a) (g * b)) ∧
+    (∀ a b g : G, r a b → r (a * g) (b * g))
+
+/--
+*Kourovka Problem 2.24.*
+
+Does every torsion-free Engel group admit a bi-invariant linear order?
+-/
+@[category research solved, AMS 20]
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean]: What I actually meant: The conjecture should be under research open, but there should be a sperate statemnt (with sorry as proof), that the conjecture implies the other one (as you write on top of the file). This should be tagged with research solved.
There are many examples for this in the repository, maybe take a look at a few of them to get a sense for this

File: FormalConjectures/Kourovka/2_24.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
...
+theorem kourovka_problem_2_24 :
+    answer(sorry) ↔
+      ∀ (H : Type*) [Group H], IsEngel H → Monoid.IsTorsionFree H → IsOrderable H := by
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean]:
```suggestion
      ∀ (H : Type) [Group H], IsEngel H → Monoid.IsTorsionFree H → IsOrderable H := by
```

File: FormalConjectures/Kourovka/2_24.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+conjecture would imply an affirmative answer here via Mal'cev's theorem that torsion-free locally
+nilpotent groups are orderable.
+-/
+
+namespace KourovkaProblem2_24
+
+variable (G : Type*) [Group G]
+
+/-- The $n$-fold iterated commutator $[x,_n y]$. -/
+def commutator_n (x y : G) : ℕ → G
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean:41]: Commutator also exists in mathlib, under ```commutator```. For the beginning, I recommend you to use the website leansearch.net (there are also some alternatives, say if you wanna know more) to find definitions and theorems in mathlib.

File: FormalConjectures/Kourovka/2_24.lean [hunk 7]
```diff
@@ -0,0 +1,63 @@
...
+  | 0 => x
+  | n + 1 =>
+      let z := commutator_n x y n
+      z * y * z⁻¹ * y⁻¹
+
+/-- An Engel group: every pair of elements has some iterated commutator equal to the identity. -/
+def IsEngel : Prop :=
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean:46]: There is also ```LieAlgebra.IsEngelian``` in mathlib, but I doubt this is applicable here, so this is likely fine

File: FormalConjectures/Kourovka/2_24.lean [hunk 8]
```diff
@@ -0,0 +1,63 @@
...
+  ∀ x y : G, ∃ n : ℕ, commutator_n (G := G) x y n = 1
+
+/-- A group is orderable if it admits a bi-invariant strict total order. -/
+def IsOrderable : Prop :=
```
Comment (felixpernegger) [inline FormalConjectures/Kourovka/2_24.lean:57]: ```MulRightStrictMono``` and ```MulLeftStrictMono``` make this redundant.

**Comment by vikasprajapati-01** [comment]
Changes are :
- Main statement is tagged research open.
- The implication “Plotkin ⇒ orderability” is a separate research solved lemma.
- commutator_n now uses mathlib’s element commutator notation ⁅·, ·⁆ (open scoped Group).
- Orderability uses MulLeftStrictMono/MulRightStrictMono.
- torsion-free uses IsMulTorsionFree.
- IsLocallyNilpotent is still a placeholder True (I can strengthen it to “every finitely generated subgroup is nilpotent” if you prefer). 
- I also kept PlotkinConjecture as a named def (happy to inline that assumption instead).

File: FormalConjectures/Kourovka/2_24.lean (hunk 6 above)
Comment (vikasprajapati-01) [reply FormalConjectures/Kourovka/2_24.lean:41]: Thank you for the website (leansearch.net), this is really great. Now i am able to easily find the theorems in Mathlilb4.

File: FormalConjectures/Kourovka/2_24.lean [hunk 9]
```diff
@@ -0,0 +1,95 @@
...
+  | 0 => x
+  | n + 1 => ⁅commutator_n x y n, y⁆
+
+/-- An Engel group: every pair of elements has some iterated commutator equal to the identity. -/
+def IsEngel : Prop :=
+  ∀ x y : G, ∃ n : ℕ, commutator_n (G := G) x y n = 1
+
+/-- A locally nilpotent group: every finitely generated subgroup is nilpotent. -/
+def IsLocallyNilpotent (H : Type) [Group H] : Prop :=
+  ∀ K : Subgroup H, K.FG → Group.IsNilpotent K
```
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:51]: Can you move this to ForMathlib?

File: FormalConjectures/Kourovka/2_24.lean [hunk 10]
```diff
@@ -0,0 +1,95 @@
...
+def PlotkinConjecture : Prop :=
+  ∀ (H : Type) [Group H], IsEngel H → IsLocallyNilpotent H
+
+/-- Mal'cev's theorem: torsion-free locally nilpotent groups are orderable. -/
+def MalcevTheorem : Prop :=
+  ∀ (H : Type) [Group H], IsLocallyNilpotent H → IsMulTorsionFree H → IsOrderable H
+
+/-- Mal'cev's theorem: torsion-free locally nilpotent groups are orderable. -/
+@[category research solved, AMS 20]
+theorem malcev_theorem : MalcevTheorem := by
```
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:70]: Can you inline `MalcevTheorem`?

File: FormalConjectures/Kourovka/2_24.lean (hunk 9 above)
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:51]: Can you state that every locally nilpotent group is Engel?

File: FormalConjectures/Kourovka/2_24.lean [hunk 11]
```diff
@@ -0,0 +1,95 @@
...
+/--
+A group is orderable if it admits a strict total order that is monotone under
+left and right multiplication.
+-/
+def IsOrderable : Prop :=
+  ∃ _ : LinearOrder G, MulLeftStrictMono G ∧ MulRightStrictMono G
+
+/-- Plotkin's conjecture: every Engel group is locally nilpotent. -/
+def PlotkinConjecture : Prop :=
+  ∀ (H : Type) [Group H], IsEngel H → IsLocallyNilpotent H
```
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:62]: Can you inline this?

File: FormalConjectures/Kourovka/2_24.lean [hunk 12]
```diff
@@ -0,0 +1,95 @@
...
+  sorry
+
+/--
+Plotkin's conjecture implies a positive answer to Kourovka Problem 2.24 via
+Mal'cev's theorem.
+-/
+@[category research solved, AMS 20]
+theorem kourovka_problem_2_24_of_plotkin
+    (hPlotkin : PlotkinConjecture) :
+  ∀ (H : Type) [Group H], IsEngel H → IsMulTorsionFree H → IsOrderable H := by
```
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:91]:
```suggestion
    ∀ (H : Type) [Group H], IsEngel H → IsMulTorsionFree H → IsOrderable H := by
```

File: FormalConjectures/Kourovka/2_24.lean [hunk 13]
```diff
@@ -0,0 +1,95 @@
...
+/-- A locally nilpotent group: every finitely generated subgroup is nilpotent. -/
+def IsLocallyNilpotent (H : Type) [Group H] : Prop :=
+  ∀ K : Subgroup H, K.FG → Group.IsNilpotent K
+
+/--
+A group is orderable if it admits a strict total order that is monotone under
+left and right multiplication.
+-/
+def IsOrderable : Prop :=
+  ∃ _ : LinearOrder G, MulLeftStrictMono G ∧ MulRightStrictMono G
```
Comment (YaelDillies) [inline FormalConjectures/Kourovka/2_24.lean:58]: Can you move this to ForMathlib? Note that there is already a PR to mathlib introducing this?
